US08080541B2
Step 1. Preparation of 2,6-Dimethoxy-4-trifluoromethyl-benzoyl chloride
To a suspension of 14.47 g (57.84 mmol) 2,6-dimethoxy-4-trifluoromethyl-benzoic acid (intermediate AJ) in 160 ml toluene containing four drops DMF under nitrogen at room temperature, was added 42 ml (578.4 mmol) thionyl chloride. The mixture was heated in an 85° C. oil bath for 3 hours. The solvent was removed in vacuo to provide 15.37 g (yield: 98.9%) of the title compound as an off-white solid.

reactant | 2,6-dimethoxy-4-trifluoromethyl-benzoic acid | 57.84 mmol, 14.47 g | COC1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)OC | C10H9F3O4
reactant | thionyl chloride | 578.4 mmol, 42 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-Dimethoxy-4-trifluoromethyl-benzoyl chloride | 15.37 g, yield: 98.9% | COC1=C(C(=O)Cl)C(=CC(=C1)C(F)(F)F)OC | C10H8ClF3O3
